US08198311B2
Methyl 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2,2,5-trimethylhexanoate (0.4 mmol) was dissolved in 5 mL of DMSO, 10 mL of 1 NaOH and 5 mL of MeOH and heated at 100° C. overnight. The reaction was quenched with sat. KH2PO4 and extracted with 2× EtOAc. The EtOAc extracts were dried over MgSO4, filtered, and concentrated by rotary evaporator to give 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2,2,5-trimethylhexanoic acid. MS found: (M+H)+=369.

reactant | Methyl 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2,2,5-trimethylhexanoate | 0.4 mmol | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(C(C(=O)OC)(C)C)CC(C)C | C23H27FN2O2
reactant | NaOH | [OH-].[Na+]
reactant | MeOH | 5 mL | CO | CH4O
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2,2,5-trimethylhexanoic acid | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(C(C(=O)O)(C)C)CC(C)C | C22H25FN2O2
